US09399640B2
Step 1. 4-Bromo-N-methyl-2-nitro-3-phenoxyaniline
This compound was synthesized according to the procedure of Example 1, Step 1, using 4-bromo-3-fluoro-N-methyl-2-nitroaniline and phenol as the starting materials. LCMS calculated for C13H12BrN2O3 (M+H)+: m/z=323.0, 325.0. found: 322.9, 325.0.

reactant | 4-bromo-3-fluoro-N-methyl-2-nitroaniline | BrC1=C(C(=C(NC)C=C1)[N+](=O)[O-])F | C7H6BrFN2O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 4-Bromo-N-methyl-2-nitro-3-phenoxyaniline | BrC1=C(C(=C(NC)C=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C13H11BrN2O3
